* Differential Amplifier Circuit

   .include model.lib

   VDD 2 0 DC 5V

   RD1 2 5 10k
   RD2 2 4 10k

   M1 5 1 3 3 NMOS
   M2 4 1 3 3 NMOS
   M3 5 6 2 2 PMOS
   M4 4 6 2 2 PMOS
   M5 3 7 0 0 NMOS
   M6 3 8 0 0 NMOS

   VCONT1 6 0 DC 2.5V
   VCONT2 8 0 DC 2.5V

   I_SS 3 0 DC 1mA

   .end